US07498440B2
1-[3-(3-biphenylyloxy)propyl]-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0433 g, 0.148 mmol) and 3-biphenylyl 3-bromopropyl ether (0.0568 g, 0.196 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0610 g, 70.6%). EI-MS m/z 504(M+) Rt (2.37 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.148 mmol, 0.0433 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 3-biphenylyl 3-bromopropyl ether | 0.196 mmol, 0.0568 g | BrCCCOC=1C=C(C=CC1)C1=CC=CC=C1 | C15H15BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 1-[3-(3-biphenylyloxy)propyl]-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0610 g, 70.6% | [Br-].C1(=CC(=CC=C1)OCCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O)C2=CC=CC=C2 | InChI=1S/C35H38NO2.BrH/c37-35(31-15-6-2-7-16-31,32-17-8-3-9-18-32)34-20-24-36(25-21-34,26-22-34)23-11-27-38-33-19-10-14-30(28-33)29-12-4-1-5-13-29;/h1-10,12-19,28,37H,11,20-27H2;1H/q+1;/p-1
